US09233946B2
5-Chloro-3-methyl-N-[3-(1,3-oxazol-5-yl)phenyl]-1-benzothiophene-2-sulfonamide
The product was prepared according to General Procedure 1, described in Example 1, starting with 5-chloro-3-methyl-benzothiophene-2-sulfonyl chloride (15.5 mg, 0.055 mmol) and 3-(1,3-oxazol-5-yl)-aniline (8 mg, 0.05 mmol) yielding 5.7 mg (26%) of the title compound. 1H NMR (500 MHz, DMSO-d6) δ ppm 7.06 (d, 1 H) 7.29 (t, 1 H) 7.39 (d, 1 H) 7.45 (br. s., 1 H) 7.49 (d, 1 H) 7.54 (s, 1 H) 7.93 (s, 1 H) 8.00 (d, 1 H) 8.36 (s, 1 H) 10.87 (br. s., 1 H) (Note; CH3 in DMSO-peak).

reactant | 5-chloro-3-methyl-benzothiophene-2-sulfonyl chloride | 0.055 mmol, 15.5 mg | ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)Cl)C)C1 | C9H6Cl2O2S2
reactant | 3-(1,3-oxazol-5-yl)-aniline | 0.05 mmol, 8 mg | O1C=NC=C1C=1C=C(N)C=CC1 | C9H8N2O
product | 5-Chloro-3-methyl-N-[3-(1,3-oxazol-5-yl)phenyl]-1-benzothiophene-2-sulfonamide | 5.7 mg, 26% | ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)NC2=CC(=CC=C2)C2=CN=CO2)C)C1 | C18H13ClN2O3S2
